US04107209
PREPARATION OF 3-(METHYLTHIO)-1-(2,6,6-TRIMETHYL-1,3-CYCLOHEXADIEN-1-YL)-1-BUTANONE
In a 50-ml, three-necked, round-bottom flask equipped with a magnetic stirring assembly, a tube submerged for the introduction of gas, an immersion thermometer and a dry ice isopropanol condenser, the outlet of which leads through a 50% alkali trap to the hood sink, is placed 8.3 grams of beta-damascenone and approximately 1 gram of triethylamine. Gaseous methyl mercaptan is introduced into the stirred reaction mixture which is maintaned at 10° C. Addition is continued for approximately one hour and then stopped. The stirred reaction mix is allowed to attain room temperature, and the reaction mix is stirred overnight at room temperature. The next morning the light yellow reaction mix is transferred to 50 ml of ether in a separatory funnel and washed twice with dilute sulfuric acid, twice with saturated bicarbonate solution, and then with saturated saline solution until the wash is neutral. The dried ether layer is stripped of solvent on a `rotovap` and GLC of the residue on an 1/8 inch × 10 inches stainless steel, 5% carbowax 20 M column isothermally at 190° C shows one major late eluting peak which is trapped for infra-red and nuclear magnetic resonance/mass spectral analyses. Infra-red analysis suggests that the cyclohexadienyl ring structure is intact and in conjugation with the side chain ketone which is, however, now out of cross conjugation. Therefore, reaction appears to have occurred at the side chain olefinic site. Mass spectral analysis shows a molecular weight of 238, and the proper fragmentation for the proposed structure. The mass spectral analysis also is a satisfactory match with the scan for peak "A" as set forth in Example I. This peak has an IE on SE-30 of 13.00. A trap of the synthetic material is run for IE and the IE on SE-30 is 13.08.

reactant | beta-damascenone | 8.3 grams | C/C=C/C(=O)C1=C(C=CCC1(C)C)C | C13H18O
reactant | triethylamine | approximately 1 gram | C(C)N(CC)CC | C6H15N
reactant | methyl mercaptan | CS | CH4S
solvent | ether | 50 ml | CCOCC | C4H10O
product | 3-(METHYLTHIO)-1-(2,6,6-TRIMETHYL-1,3-CYCLOHEXADIEN-1-YL)-1-BUTANONE | CSC(CC(=O)C1=C(C=CCC1(C)C)C)C | C14H22OS
